US05985853
10 g of 5-amino 2-methyl phenol is dissolved in a solution of 150 ml of water, 100 ml of THF and 6 ml of concentrated sulphuric acid. The resultant solution is cooled down to 0° C. A solution of 5.6 g of sodium nitrite in 30 ml of water is added dropwise at 0° C. over 40 minutes. Next the suspension obtained is agitated for 30 minutes at 0° C. and 17.5 g of potassium iodide in 70 ml of water and 200 mg of powdered metallic copper are added. The temperature is left to rise to 20° C. over 30 minutes and agitation is maintained for one hour at this temperature. The reaction medium is poured into water and extraction is carried out with ethyl acetate. The organic phases are collected, dried over magnesium sulphate and evaporated under reduced pressure. The residual oil is chromatographed, eluting with a heptane-ethyl acetate mixture (1-1), in order to give 9.7 g of 5-iodo 2-methyl phenol. M.p.=60° C.

reactant | 5-amino 2-methyl phenol | 10 g | NC=1C=CC(=C(C1)O)C | C7H9NO
reactant | sodium nitrite | 5.6 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 17.5 g | [I-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 150 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | sulphuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 30 ml | O | H2O
solvent | water | 70 ml | O | H2O
catalyst | copper | 200 mg | [Cu] | Cu
product | 5-iodo 2-methyl phenol | 9.7 g | IC=1C=CC(=C(C1)O)C | C7H7IO
